US07429665B2
2-((4-(2-methyl-5-(pyridin-4-yl)oxazol-4-yl)phenoxy)methyl)quinoline
To a solution of 4-(2-methyl-5-(pyridin-4-yl)oxazol-4-yl)phenol (21 mg, 0.083 mmol) in 2.5 mL of dry DMF was added Cs2CO3 (54 mg, 0.17 mmol). After stirring for 0.5 h, 2- (chloromethyl)quinoline (17.8 mg, 0.100 mmol) was added and the mixture was stirred at 85° C. for 12 h. After removal of the DMF under vacuum, the residue was purified by PTLC (1:2 hexane/EtOAc) to give 13 mg (40%) of the title compound as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ: 2.54 (s, 3H), 5.41 (s, 2H), 7.06 (m, 2H), 7.41 (m, 2H), 7.53 (m, 3H), 7.68 (d, 1H), 7.80 (t, 1H), 7.83 (d, 1H), 8.05 (d, 1H), 8.20 (d, 1H), 8.53 (m, 2H). MS m/z: 394 [M+1]+.

reactant | 4-(2-methyl-5-(pyridin-4-yl)oxazol-4-yl)phenol | 0.083 mmol, 21 mg | CC=1OC(=C(N1)C1=CC=C(C=C1)O)C1=CC=NC=C1 | C15H12N2O2
reactant | Cs2CO3 | 0.17 mmol, 54 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2- (chloromethyl)quinoline | 0.100 mmol, 17.8 mg | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 2-((4-(2-methyl-5-(pyridin-4-yl)oxazol-4-yl)phenoxy)methyl)quinoline | 13 mg, 40% | CC=1OC(=C(N1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C1=CC=NC=C1 | C25H19N3O2
